US06573218B1
Step 3 A mixture of 4-chloro-3-(2-amino-4-chloro-6-fluoro-3-hydroxyphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole (0.88 g), ethyl 2-bromopropionate (0.70 g) and potassiun carbonate (0.711 g) in acetonitrile (30 ml) was stirred overnight at ambient temperature. The reaction mixture was poured into water and extracted with ethyl acetate. The organic phase was washed with brine (×3) and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and the oily product was subjected to silica gel chromatography eluted with ethyl acetate and hexane (1:4) to afford 4-chloro-3-(8-chloro-6-fluoro-2-methyl-2H-1,4-benzoxazine-3-one-5-yl)-5-difluoromethoxy-1-methyl-1H-pyrazole (0.054 g).

reactant | 4-chloro-3-(2-amino-4-chloro-6-fluoro-3-hydroxyphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | 0.88 g | ClC=1C(=NN(C1OC(F)F)C)C1=C(C(=C(C=C1F)Cl)O)N | C11H8Cl2F3N3O2
reactant | ethyl 2-bromopropionate | 0.70 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | carbonate | 0.711 g | C([O-])([O-])=O
reactant | water | O | H2O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 4-chloro-3-(8-chloro-6-fluoro-2-methyl-2H-1,4-benzoxazine-3-one-5-yl)-5-difluoromethoxy-1-methyl-1H-pyrazole | 0.054 g | ClC=1C(=NN(C1OC(F)F)C)C1=C(C=C(C2=C1NC(C(O2)C)=O)Cl)F | C14H10Cl2F3N3O3
